US05151548
44 g of 8% strength sodium hydroxide solution are added to a solution of 15.3 g (73 millimoles) of 2-fluoro-3-isopropylbenzyl acetate in 100 ml of dioxane. After 5 hours at 50° C., the mixture is poured into 100 ml of water. 12 g (98%) of 2-fluoro-3-isopropylbenzyl alcohol are obtained by extraction with dichloromethane.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-fluoro-3-isopropylbenzyl acetate | 73 millimoles, 15.3 g | C(C)(=O)OCC1=C(C(=CC=C1)C(C)C)F | C12H15FO2
reactant | water | 100 ml | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-fluoro-3-isopropylbenzyl alcohol | 12 g, 98% | FC1=C(CO)C=CC=C1C(C)C | C10H13FO
